US06620811B2
2-Methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide
From 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with sodium hydride and methanol in dioxane and DMF. ES-MS m/e (%): 423 (M+Na+, 31), 401 (M+H+, 100).

reactant | 2-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | ClC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17ClN4O3S
reactant | sodium hydride | [H-].[Na+]
reactant | methanol | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Methoxy-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | COC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C19H20N4O4S
